US04544400
2-Nitro-5-(2,4-dichlorophenoxy)aniline (1.6 g, 5.4 mmol) is dissolved in a solution of potassium hydroxide (0.33 g, 5.9 mmol) in ~150 ml of ethanol. The mixture is cooled to -5°, and sodium hypochlorite (17 ml of 5.3% solution, 0.9 g, 11.8 mmol) is added dropwise over 20 minutes. The reaction is stirred at RT overnight, then cooled to 10° and ~2 ml of sodium hypochlorite is added. One hour later, the reaction is stripped. The residue is taken up in ether, washed with water, dried, stripped and purified by prep. TLC (10% ethyl acetate/hexane) to yield 5-(2,4-dichlorophenoxy)benzo-2,1,3-oxadiazole N-oxide, m.p. 92°-93°.

reactant | 2-Nitro-5-(2,4-dichlorophenoxy)aniline | 5.4 mmol, 1.6 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)OC1=C(C=C(C=C1)Cl)Cl | C12H8Cl2N2O3
reactant | potassium hydroxide | 5.9 mmol, 0.33 g | [OH-].[K+]
reactant | sodium hypochlorite | 11.8 mmol, 17 ml, 0.9 g | Cl[O-].[Na+]
reactant | sodium hypochlorite | ~2 ml | Cl[O-].[Na+]
solvent | ethanol | ~150 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 5-(2,4-dichlorophenoxy)benzo-2,1,3-oxadiazole N-oxide | ClC1=C(OC2=CC=3C(=[N+](ON3)[O-])C=C2)C=CC(=C1)Cl | C12H6Cl2N2O3
